US08563541B2
1-[3,5-dichloro-4-(3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b: 4′,3′-f]azepin-2-yl)phenyl]-N,N-dimethylmethanamine
A solution of dimethylamine (23 μL, 2.0 M in tetrahydrofuran) was dissolved in N,N-dimethylformamide (0.5 mL) and cooled to 0° C. Sodium hydride (1.1 mg, 0.05 mmol) was added and the mixture was stirred for 15 minutes. 2-[2,6-dichloro-4-(chloromethyl)phenyl]-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepine (10.0 mg, 0.02 mmol) was added and the mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with methanol and purified on preparative LCMS at pH 10 to give the desired product (3.2 mg, 31%). LC/MS: 437 (M+H)+.

reactant | dimethylamine | 2.0 M, 23 μL | CNC | C2H7N
reactant | Sodium hydride | 0.05 mmol, 1.1 mg | [H-].[Na+]
reactant | 2-[2,6-dichloro-4-(chloromethyl)phenyl]-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepine | 0.02 mmol, 10.0 mg | ClC1=C(C(=CC(=C1)CCl)Cl)C=1NC2=C(C3=C(NC4=C2C=CN=C4)N=CC=C3)N1 | C20H12Cl3N5
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 1-[3,5-dichloro-4-(3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b: 4′,3′-f]azepin-2-yl)phenyl]-N,N-dimethylmethanamine | 3.2 mg, 31% | ClC=1C=C(C=C(C1C=1NC2=C(C3=C(NC4=C2C=CN=C4)N=CC=C3)N1)Cl)CN(C)C | C22H18Cl2N6
